US04584008
t-butyl-α-(1,2,4-triazol-1-yl)acetate
34.53 gms of 1,2,4-triazole were added to 250 mls of ethanol along with 34.0 gms of sodium ethoxide. The system was placed under an argon atmosphere and cooled to about 0° C. After cooling, 107.28 gms of t-butyl bromoacetate were dropwise added to the system. The system was then allowed to come to room temperature and stirred there for 60 hours. The reaction was stopped and the system filtered. The solvent was removed by stripping and the residue was dissolved in hot ether and then filtered. The ether was removed by stripping and the resulting solid triturated with hexane and dried to yield 80.81 gms of the title compound as a beige solid.

reactant | 1,2,4-triazole | 34.53 gms | N1N=CN=C1 | C2H3N3
reactant | sodium ethoxide | 34.0 gms | [O-]CC.[Na+]
reactant | t-butyl bromoacetate | 107.28 gms | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | ethanol | 250 mls | C(C)O | C2H6O
product | t-butyl-α-(1,2,4-triazol-1-yl)acetate | 80.81 gms | C(C)(C)(C)OC(CN1N=CN=C1)=O | C8H13N3O2
